US08283353B2
2-(5-{[7-butyl-4-(trans-4-hydroxycyclohexyl)-5-oxo-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl]methyl}pyridin-2-yl)benzonitrile
A solution of N-(4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-pyrazol-5-amine (0.67 g), 1,8-diazabicyclo[5.4.0]undec-7-ene (0.067 mL) and methyl 2-{[6-(2-cyanophenyl)pyridin-3-yl]methyl}-3-oxoheptanoate (0.8 g) in diethylaniline (5 mL) was stirred at 180° C. for 5 hr. The mixture was allowed to cool, ethyl acetate and water were added, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was crudely purified by silica gel column chromatography. This was dissolved in tetrahydrofuran (4 mL). Tetrabutylammonium fluoride (2.5 mL) was added, and the mixture was stirred at 70° C. for 2 hr. The mixture was allowed to cool, ethyl acetate and saturated aqueous ammonium chloride solution were added, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated. This was dissolved in acetonitrile (6 mL), 1,1,1-tris(acetyloxy)-1,1-dihydro-1,2-benziodoxol-3-(1H)-one (1.0 g) was added, and the mixture was stirred for 3 hr. Ethyl acetate, water and sodium thiosulfate were added to the reaction mixture, and the mixture was stirred for 30 min. After stirring, the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated. The residue was dissolved in ethanol (3 mL)-tetrahydrofuran (3 mL), and sodium borohydride (0.045 g) was added at 0° C. After stirring at 0° C. for 2 hr, ethyl acetate and then saturated aqueous ammonium chloride solution were added. The mixture was extracted with ethyl acetate, and the organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography to give the title compound as a pale-yellow amorphous solid (0.48 g, 44%).

reactant | N-(4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-pyrazol-5-amine | 0.67 g | [Si](C)(C)(C(C)(C)C)OC1CCC(CC1)NC1=CC=NN1 | C15H29N3OSi
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.067 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | methyl 2-{[6-(2-cyanophenyl)pyridin-3-yl]methyl}-3-oxoheptanoate | 0.8 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=N1)CC(C(=O)OC)C(CCCC)=O | C21H22N2O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | diethylaniline | 5 mL | CCN(CC)C=1C=CC=CC1 | C10H15N
solvent | water | O | H2O
product | 2-(5-{[7-butyl-4-(trans-4-hydroxycyclohexyl)-5-oxo-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl]methyl}pyridin-2-yl)benzonitrile | 0.48 g, 44% | C(CCC)C1=C(C(N(C=2N1N=CC2)[C@@H]2CC[C@H](CC2)O)=O)CC=2C=CC(=NC2)C2=C(C#N)C=CC=C2 | C29H31N5O2
